US07799805B2
N-[2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-acetamide
TBAF (1M in THF, 1.12 mL, 1.12 mmol) was added to a sol. of N-{2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-acetamide (190 mg, 0.555 mmol) in THF (7.10 mL) at 0° C. The mixture was stirred for 1 h while warming up to rt. Aq. sat. NH4Cl was added, and the mixture was extracted with EtOAc (3×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 19:1) yielded the title compound (100 mg, 79%). LC-MS: tR=0.67 min; ES+: 284.11.

reactant | TBAF | 1.12 mmol, 1M, 1.12 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | N-{2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-acetamide | 0.555 mmol, 190 mg | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCNC(C)=O)(C)C | C17H28ClNO2Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 7.10 mL | C1CCOC1 | C4H8O
product | N-[2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-acetamide | 100 mg, 79% | ClC1=C(C=C(C=C1)CCNC(C)=O)CO | C11H14ClNO2
